US07091199B1
Preparation of (2-methoxy-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I, Compound 1)
Mix 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole (0.324 g, 1 mmol), potassium carbonate (0.28 g, 2 mmol), 2-methoxybenzylamine (0.686 g, 5 mmol) and acetonitrile (anhydrous, 4 mL) and heat at 75° C. for 16.5 hours. Cool the reaction mixture and filter through a Waters Sep-Pak silica gel cartridge (1 g) using ethyl acetate. Combine the appropriate fractions and concentrate to give a residue. Purify the residue by column (10 g silica) chromatography using a step gradient of 60% ethyl acetate in heptane to 100% ethyl acetate to give the title compound (342 mg, 90% Yield). Purity by LC/MS (APCI)=99%, [M+H]+=381.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | 1 mmol, 0.324 g | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | 2 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxybenzylamine | 5 mmol, 0.686 g | COC1=C(CN)C=CC=C1 | C8H11NO
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (2-methoxy-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | 342 mg, 90% Yield | COC1=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=CC=C1 | C21H20N2O3S
